US06184225B2
2-Cyclopentyloxyethanol (4.3 g, 33.1 mmol) in pyridine (18 ml) was added dropwise to a solution of 3-toluenesulphonyl chloride (6.8 g, 35.7 mmol) in pyridine (27 ml) at 5° C. The mixture was allowed to warm to ambient temperature, and stirred overnight. The mixture was poured onto ice containing concentrated hydrochloric acid (46 ml) and the product was extracted with ether. The organic phase was washed with 2M hydrochloric acid, dried (MgSO4) and the solvent removed by evaporation to give 2-cyclopentyloxyethyl 4-toluenesulphonate (6.9 g, 73%) which was used without further purification.

reactant | 2-Cyclopentyloxyethanol | 33.1 mmol, 4.3 g | C1(CCCC1)OCCO | C7H14O2
reactant | 3-toluenesulphonyl chloride | 35.7 mmol, 6.8 g | C1(=CC(=CC=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 27 ml | N1=CC=CC=C1 | C5H5N
product | 2-cyclopentyloxyethyl 4-toluenesulphonate | 6.9 g, 73% | C1(=CC=C(C=C1)S(=O)(=O)OCCOC1CCCC1)C | C14H20O4S
